US07968552B2
A mixture of 2-{4-[(3-bromobenzyl)oxy]benzyl}-1,2,4-oxadiazolidine-3,5-dione (500 mg), 2,6-difluoro-4-methoxyphenyl boronic acid (325 mg), tetrakistriphenylphosphine palladium (80 mg), lithium chloride (6 mg), a sodium carbonate aqueous solution (562 mg/5 ml), ethanol (5 ml) and 1,2-dimethoxyethane (25 ml) was stirred at 90° C. for 5 hours in an atmosphere of nitrogen. 2,6-Difluoro-4-methoxyphenyl boronic acid (325 mg) was further added thereto, followed by stirring at 90° C. for 13 hours. Further, 2,6-difluoro-4-methoxyphenyl boronic acid (325 mg) was added thereto, followed by stirring at 90° C. for 2 hours. Further, 2,6-difluoro-4-methoxyphenyl boronic acid (325 mg) was added thereto, followed by stirring at 90° C. for 5 hours and spontaneous cooling to room temperature. A 1 M hydrochloric acid (50 ml) was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate and filtered. Silica gel (3 g) was added to the filtrated, followed by concentration under a reduced pressure. The carrying product thus obtained was purified by silica gel column chromatography (chloroform-methanol) to obtain a light yellow foamy substance (614 mg). The resulting foamy substance (614 mg) was dissolved in THF (5 ml)-ethanol (5 ml), a 1 M sodium hydroxide aqueous solution (1.32 ml) was added, followed by concentration under a reduced pressure. By recrystallizing the resulting residue from isopropanol-water, sodium 2-{4-[(2′,6′-difluoro-4′-methoxybiphenyl-3-yl)methoxy]benzyl}-3,5-dioxo-1,2,4-oxadiazolidin-4-ide (366 mg) was obtained as a colorless solid.

reactant | 2-{4-[(3-bromobenzyl)oxy]benzyl}-1,2,4-oxadiazolidine-3,5-dione | 500 mg | BrC=1C=C(COC2=CC=C(CN3OC(NC3=O)=O)C=C2)C=CC1 | C16H13BrN2O4
reactant | 2,6-difluoro-4-methoxyphenyl boronic acid | 325 mg | FC1=C(C(=CC(=C1)OC)F)B(O)O | C7H7BF2O3
reactant | lithium chloride | 6 mg | [Cl-].[Li+]
reactant | sodium carbonate | 5 ml, 562 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,6-Difluoro-4-methoxyphenyl boronic acid | 325 mg | FC1=C(C(=CC(=C1)OC)F)B(O)O | C7H7BF2O3
reactant | 2,6-difluoro-4-methoxyphenyl boronic acid | 325 mg | FC1=C(C(=CC(=C1)OC)F)B(O)O | C7H7BF2O3
reactant | 2,6-difluoro-4-methoxyphenyl boronic acid | 325 mg | FC1=C(C(=CC(=C1)OC)F)B(O)O | C7H7BF2O3
reactant | hydrochloric acid | 1 M, 50 ml | Cl | ClH
reactant | sodium hydroxide | 1 M, 1.32 ml | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
product | sodium 2-{4-[(2′,6′-difluoro-4′-methoxybiphenyl-3-yl)methoxy]benzyl}-3,5-dioxo-1,2,4-oxadiazolidin-4-ide | 366 mg | FC1=C(C(=CC(=C1)OC)F)C1=CC(=CC=C1)COC1=CC=C(CN2OC([N-]C2=O)=O)C=C1.[Na+] | InChI=1S/C23H18F2N2O5.Na/c1-30-18-10-19(24)21(20(25)11-18)16-4-2-3-15(9-16)13-31-17-7-5-14(6-8-17)12-27-22(28)26-23(29)32-27;/h2-11H,12-13H2,1H3,(H,26,28,29);/q;+1/p-1
